US04028356
In the manner given in Example 1, 7-bromo-2-hydrazino-5-(2-pyridyl)-3H-1,4-benzodiazepine in tetrahydrofuran can be treated with 1 -bromo-3-chloro-propanone under nitrogen to give 7-bromo-2-[[2-bromo-1-(chloromethyl)ethylidene]hydrazino]-5-(2-pyridyl)-3H-1,4-benzodiazepine.

reactant | 7-bromo-2-hydrazino-5-(2-pyridyl)-3H-1,4-benzodiazepine | BrC=1C=CC2=C(C(=NCC(=N2)NN)C2=NC=CC=C2)C1 | C14H12BrN5
reactant | 1 -bromo-3-chloro-propanone | BrCC(CCl)=O | C3H4BrClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-bromo-2-[[2-bromo-1-(chloromethyl)ethylidene]hydrazino]-5-(2-pyridyl)-3H-1,4-benzodiazepine | BrC=1C=CC2=C(C(=NCC(=N2)NN=C(CBr)CCl)C2=NC=CC=C2)C1 | C17H14Br2ClN5
